US07250410B2
3-benzyl-7,8-diethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, XXIIaj.
By replacing (2-amino-4,5-dimethoxyphenyl)(phenyl) methanone (XXIaa) in example XXIIaa by (2-amino-4,5-diethoxyphenyl)(phenyl)methanone (XXIag), and ethyl glycinate hydrochloride by methyl phenylanalilate hydrochloride, and proceeding in the same manner, the abovenamed product is obtained. Yield: 19%. M: 10–112° C. 1H-NMR (CDCl3, 200 MHz): d 1.38 (t, 3H, CH3), 1.55 (t, 3H, CH3), 3.61–3.66 (m, 2H, CH2), 3.82–3.98 (m, 3H, CH+OCH2), 4.18 (q, 2H, OCH2), 6.64 (s, 1H Ar), 6,75 (s, 1H Ar), 7.25–7.57 (m, 10H Ar), 8.65 (s, 1H exchangeable, —NH).

reactant | (2-amino-4,5-diethoxyphenyl)(phenyl)methanone | NC1=C(C=C(C(=C1)OCC)OCC)C(=O)C1=CC=CC=C1 | C17H19NO3
reactant | ethyl glycinate hydrochloride | Cl.NCC(=O)OCC
product | 3-benzyl-7,8-diethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 19% | C(C1=CC=CC=C1)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OCC)=O | C26H26N2O3
